US04547506
2-[N-(3-aminopropyl)-N-methylamino]pyridine (1.98 g) and 2-methylthio-5-(4-hydroxybenzyl)pyrimid-4-one (2.48 g) were heated together under reflux in pyridine (5 ml) for 24 hr. After stripping, the residue was triturated with water (pH adjusted to 7.0 with 2N hydrochloric acid). Recrystallisation from ethanol/water and again from methanol gave 2-[3-(N-methyl-N-pyrid-2-ylamino)propyl-amino]-5-(4-hydroxybenzyl) pyrimid-4-one, 2.4 g (66%) mp 109°-11° C. (analytical sample from methanol).

reactant | 2-[N-(3-aminopropyl)-N-methylamino]pyridine | 1.98 g | NCCCN(C)C1=NC=CC=C1 | C9H15N3
reactant | 2-methylthio-5-(4-hydroxybenzyl)pyrimid-4-one | 2.48 g | CSC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)O | C12H12N2O2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-[3-(N-methyl-N-pyrid-2-ylamino)propyl-amino]-5-(4-hydroxybenzyl) pyrimid-4-one | CN(C1=NC=CC=C1)CCCNC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)O | C20H23N5O2
